US06903120B2
Methanesulfonic acid 3-(4-propyl-piperazin-1-yl)-phenyl ester
Beginning with 3-(4-propyl-piperazin-1-yl)-phenol and methanesulfonyl chloride: m.p 143-144° C. (fumarate); MS m/z (rel. intensity, 70 eV) 298 (M+, 35), 269 (95), 121 (25), 84 (30), 70 (bp);

reactant | 3-(4-propyl-piperazin-1-yl)-phenol | C(CC)N1CCN(CC1)C=1C=C(C=CC1)O | C13H20N2O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | Methanesulfonic acid 3-(4-propyl-piperazin-1-yl)-phenyl ester | C(CC)N1CCN(CC1)C=1C=C(C=CC1)OS(=O)(=O)C | C14H22N2O3S
